US04968593
1-Phenyl-3-anilino-2-pyrazolin-5-one (25 g), ethyl acetoacetate (18 g) and acetic acid (150 ml) were refluxed with heating for 6 hours. The reaction solution was diluted while water, and the resulting solid was crystallized from acetonitrile to obtain 10.9 g of 2,7-diphenyl-4-methylpyrazolo(3,4-b)pyridine-3,6-dione. Melting point 145°-147° C.

reactant | 1-Phenyl-3-anilino-2-pyrazolin-5-one | 25 g | C1(=CC=CC=C1)N1N=C(CC1=O)NC1=CC=CC=C1 | C15H13N3O
reactant | ethyl acetoacetate | 18 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,7-diphenyl-4-methylpyrazolo(3,4-b)pyridine-3,6-dione | 10.9 g | C1(=CC=CC=C1)N1NC=2N(C(C=C(C2C1=O)C)=O)C1=CC=CC=C1 | C19H15N3O2
